US05470851
4-[α-(2-Thienyl)benzylidene]-1-(3-phthalimidopropyl)piperidine
The title compound was prepared in a yield of 84% in a similar manner to that described in Preparation 1' by reacting N-(3-bromopropyl)phthalimide and 4-[α-(2-thienyl)benzylidene]piperidine.

reactant | N-(3-bromopropyl)phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 4-[α-(2-thienyl)benzylidene]piperidine | S1C(=CC=C1)C(C1=CC=CC=C1)=C1CCNCC1 | C16H17NS
product | 4-[α-(2-Thienyl)benzylidene]-1-(3-phthalimidopropyl)piperidine | yield of 84% | S1C(=CC=C1)C(C1=CC=CC=C1)=C1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C27H26N2O2S
